US06335459B1
Ethyl acrylate (1.16 mL, 10.7 mmol), palladium acetate (60.1 mg, 0.27 mmol), tri-o-tolylphosphine (160 mg, 0.54 mmol) and triethylamine (1.62 mL) were added to a solution of 3-bromo-2-methyl phenol (1 g, 5.35 mmol) in acetonitrile (2.5 mL) under a nitrogen atmosphere. The mixture was heated at 82° C. for 16 hours and cooled. 1N Hydrochloric acid was added, and the mixture was extracted with ethyl acetate. The extract was washed with water and brine, dried under sodium sulfate, and concentrated to dryness. Purification by flash chromatography, eluting with hexane/ethyl acetate, gave trans-3-(3-hydroxy-2-methylphenyl)acrylic acid ethyl ester as a clear oil (480 mg, 43.5%).

reactant | Ethyl acrylate | 10.7 mmol, 1.16 mL | C(C=C)(=O)OCC | C5H8O2
reactant | tri-o-tolylphosphine | 0.54 mmol, 160 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | 3-bromo-2-methyl phenol | 5.35 mmol, 1 g | BrC=1C(=C(C=CC1)O)C | C7H7BrO
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | acetonitrile | 2.5 mL | C(C)#N | C2H3N
catalyst | palladium acetate | 0.27 mmol, 60.1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | triethylamine | 1.62 mL | C(C)N(CC)CC | C6H15N
product | trans-3-(3-hydroxy-2-methylphenyl)acrylic acid ethyl ester | 480 mg, 43.5% | C(C)OC(\C=C\C1=C(C(=CC=C1)O)C)=O | C12H14O3
